US09353125B2
According to what is described by Kitamura et al. in “Chemistry of Material” (1996), Vol. 8, pages 570-578, for example, 4,7-di-2-thienyl-2,1,3-benzothia-diazole (DTB) can be prepared by reacting 4,7-dibromo-2,1,3-benzothiadiazole and tri-n-butyl(thien-2-yl)stannane, in the presence of tetrahydrofuran, at 66° C., for 3 hours. Bis(triphenylphosphine)palladium-(II)chloride [PdCl2(PPh3)2] is used as catalyst, in a quantity equal to 2 moles per 100 moles of 4,7-dibromo-2,1,3-benzothiadiazole. At the end of the reaction, the solvent is removed by evaporation at reduced pressure and the residue obtained is purified by elution on a silica gel chromatographic column using a mixture of methylene chloride/hexane (1/1 vol/vol) as eluent, obtaining 4,7-di-2-thienyl-2,1,3-benzothiadiazole (DTB) with a yield equal to 82%.

reactant | 4,7-dibromo-2,1,3-benzothiadiazole | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
reactant | tri-n-butyl(thien-2-yl)stannane | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | 4,7-dibromo-2,1,3-benzothiadiazole | 100 moles | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4,7-di-2-thienyl-2,1,3-benzothiadiazole | S1C(=CC=C1)C1=CC=C(C2=NSN=C21)C=2SC=CC2 | C14H8N2S3
